US06329370B1
1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine (Compound 1)
A solution of 3,5-dichloro-4-methyl-pyridine (11.32 g, 70 mmoles) in dry DMF (100 ml) was stirred under N2 at room temperature, then added with 60% NaH in oil (2.8 g, 70 mmoles). After 1 hour at room temperature a solution of 1-chloro-6-methoxy-phthalazine (6.8 g, 35 mmoles), prepared as described in example 4, in DMF (250 ml) was added. The mixture was left at room temperature for 20 hours, then poured into water/ice (pH≅8) and extracted more times with CH2Cl2. The organic phases were washed with water, anhydrified and brought to dryness to give a solid which was triturated in isopropyl ether (100 ml) and filtered. The mother liquors were dried and the residue flash chromatographed with ethyl acetate to give 8.9 g of the title compound (yield: 79.5%). m.p.: 173-175° C. 1H-NMR (CDCl3) δ: 9.32(s,1H); 8.50(s,2H); 8.11(d,1H,J=9.0 Hz); 7.56(dd,1H); 7.20(d,1H,J=2.6 Hz); 4.90(s,2H); 4.00(s,3H).

reactant | 3,5-dichloro-4-methyl-pyridine | 70 mmoles, 11.32 g | ClC=1C=NC=C(C1C)Cl | C6H5Cl2N
reactant | NaH | [H-].[Na+]
reactant | 1-chloro-6-methoxy-phthalazine | 35 mmoles, 6.8 g | ClC1=NN=CC2=CC(=CC=C12)OC | C9H7ClN2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-(3,5-Dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazine | 8.9 g, yield: 79.5% | ClC=1C=NC=C(C1CC1=NN=CC2=CC(=CC=C12)OC)Cl | C15H11Cl2N3O
